US07160887B1
A 4 N hydrochloric acid/ethyl acetate solution (5 ml) was added to an ethyl acetate (5 ml) solution of N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]phenyl]-N-[4-[(2-fluorobenzoyl)amino]butyl]-4-phenylbenzamide (0.13 g, 0.18 mmols), and stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The solid precipitated was taken out through filtration, and washed with ethyl ether to give an amorphous solid of N-[2-[3-(aminomethyl)phenoxy]phenyl]-N-[4-[(2-fluorobenzoyl)amino]butyl]-4-phenylbenzamide hydrochloride (0.07 g, 64%).

reactant | hydrochloric acid ethyl acetate | 4 N, 5 ml | Cl.C(C)(=O)OCC
reactant | N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]phenyl]-N-[4-[(2-fluorobenzoyl)amino]butyl]-4-phenylbenzamide | 0.18 mmols, 0.13 g | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC=C2)N(C(C2=CC=C(C=C2)C2=CC=CC=C2)=O)CCCCNC(C2=C(C=CC=C2)F)=O)C=CC1 | C42H42FN3O5
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-[2-[3-(aminomethyl)phenoxy]phenyl]-N-[4-[(2-fluorobenzoyl)amino]butyl]-4-phenylbenzamide hydrochloride | 0.07 g, 64% | Cl.NCC=1C=C(OC2=C(C=CC=C2)N(C(C2=CC=C(C=C2)C2=CC=CC=C2)=O)CCCCNC(C2=C(C=CC=C2)F)=O)C=CC1 | InChI=1S/C37H34FN3O3.ClH/c38-33-16-5-4-15-32(33)36(42)40-23-8-9-24-41(37(43)30-21-19-29(20-22-30)28-12-2-1-3-13-28)34-17-6-7-18-35(34)44-31-14-10-11-27(25-31)26-39;/h1-7,10-22,25H,8-9,23-24,26,39H2,(H,40,42);1H
